US05100889
C. (Z)-8-Cyclohexyl-4-octenoic acid
Rf =0.6 in 1:1 hexane-EtOAc with 0.5% AcOH.

reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | AcOH | CC(=O)O | C2H4O2
product | (Z)-8-Cyclohexyl-4-octenoic acid | C1(CCCCC1)CCC\C=C/CCC(=O)O | C14H24O2
